2176-08-01 07:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2176-7-31**] 08:30 AM
 SPUTUM CULTURE - At [**2176-7-31**] 09:41 PM
   [**7-31**]
   - ABG's with non-gap lactic acidosis?
   - On continuous nebs
   - ABG sent at 1530 - 7.32/41/146
   - advanced diet
   - repeat ABG at 2130 - 7.30/43/91
   - blood sugars in the 170's - started pt on regular insulin sliding
   scale
   Allergies:
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Unknown;
   Quinolones
   Unknown;
   Ceftriaxone
   Unknown;
   Flagyl (Oral) (Metronidazole)
   Unknown;
   Keppra (Oral) (Levetiracetam)
   Unknown;
   Last dose of Antibiotics:
   Clindamycin - [**2176-7-31**] 10:00 PM
   Azithromycin
   Other ICU medications:
   Acetaminophen
   Albuterol Sulfate
   Azithromycin
   Citalopram Hydrobromide
   Clindamycin
   Docusate Sodium
   Heparin
   Insulin
   Ipratropium Bromide Neb
   MethylPREDNISolone
   Morphine Sulfate
   Omeprazole
   Phenytoin
   Quetiapine Fumarate
   Senna
   traZODONE
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-8-1**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 77 (77 - 117) bpm
   BP: 103/55(66) {90/40(58) - 130/72(82)} mmHg
   RR: 19 (15 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    717 mL
                                                                    271 mL
   PO:
                                                                    400 mL
                                                                    200 mL
   TF:
   IVF:
                                                                    317 mL
                                                                     71 mL
   Blood products:
   Total out:
                                                                    768 mL
                                                                    355 mL
   Urine:
                                                                    768 mL
                                                                    355 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -51 mL
                                                                    -85 mL
   Respiratory support
   O2 Delivery Device: Other
   SpO2: 100%
   ABG: 7.30/43/91/19/-4
   Physical Examination
   General: Alert, moderate distress
   HEENT: Sclera anicteric, MMM, oropharynx clear, gaze disconjugate
   Neck: supple, JVP not elevated, no LAD
   Lungs:  wheezes throughout, limited chest movt  and poor inspiratory
   effort
   CV: Regular rate and rhythm, distant S1 + S2, no murmurs, rubs,
   gallops
   Abdomen: soft, tender around urostomy wihoutout other sign of
   inflammation, non-distended, bowel sounds present, no rebound
   tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   181 K/uL
   10.1 g/dL
   166 mg/dL
   0.8 mg/dL
   19 mEq/L
   4.9 mEq/L
   11 mg/dL
   110 mEq/L
   137 mEq/L
   30.5 %
   7.2 K/uL
        [image002.jpg]
                             [**2176-7-31**]  12:56 AM
                             [**2176-7-31**]  03:14 AM
                             [**2176-7-31**]  04:17 AM
                             [**2176-7-31**]  07:17 AM
                             [**2176-7-31**]  03:30 PM
                             [**2176-7-31**]  05:30 PM
                             [**2176-7-31**]  09:56 PM
                             [**2176-8-1**]  04:52 AM
   WBC
   14.6
   7.2
   Hct
   35.3
   33.9
   30.5
   Plt
   208
   181
   Cr
   0.9
   0.8
   TropT
   0.02
   <0.01
   TCO2
   18
   18
   16
   22
   22
   Glucose
   143
   152
   152
   141
   166
   Other labs: CK / CKMB / Troponin-T:90/4/<0.01, ALT / AST:44/25, Alk
   Phos / T Bili:205/0.3, Amylase / Lipase:/43, Lactic Acid:2.1 mmol/L,
   Albumin:3.9 g/dL, LDH:261 IU/L, Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:3.4
   mg/dL
   Assessment and Plan
   46 yo F w/ spina bifida, paraplegia, significant psych Hx, question of
   mental retardation, hx of seizure vs pseudoseizure, PRESENTS WITH
   exacerbation of asthma/COPD. Resp distress significantly improved on
   continuous nebs.
   .
   # Respiratory Distress: Pt presented with severe obstructive
   physiology. Pt with Hx of asthma +/- COPD. Possiblity of viral URI
   preceding current presentation. Improved on current Tx with steroids,
   Abx, Cont nebs.
   - Cont azithro (5day course), clinda (7day course) (given PCN allergy),
   f/u Cx
   - droplet precaustions, R/O flu and other resp viruses
   - solumedrol 125mg tid, will eventually taper and then resume home
   advair
   - morphine [**3-6**] q6h prn, suspect strong anxiety component
   - serial ABGs.
   - Decrease continuous nebs to 5mg/hr for 2 hrs and if doing well will
   decrease to q1hr nebs.
   # Metabolic Acidosis: The non-gap metabolic acidosis in this patient is
   likely in part due to her urostomy.  This diversion can result in a
   hyperchloremic metabolic acidosis due to transporters in the colonic
   lumen absorbing Cl- and the associated secretion of bicarb.  This
   coupled with the elevated lactate may explain the acidosis.
   - Consider starting patient on PO sodium bicarb.  This is a chronic
   state for this patient and therefore an aggressive correction not
   warranted.
   .
   # Hx of seizures: Phenytoin level subtherapeutic. Resuming home dose.
   .
   #  Psych: Last diagnosis in recent OMR note: Adjustment Disorder with
   Mixed Emotional Features & Personality Disorder NOS. Continuing home
   regimen derived from recent discharge.  Pts resp status has improved
   such that she is able to speak and interact.  Will have Psych c/s to
   eval patient.
   .
   # Chest Pain: Likely from resp distress and work of breathing,
   especially given strong assoc with cough. 3 sets CE negative, pain
   unchanged.
   .
   # HTN: holding atenolol and lisinopril given normotension and acute
   presentation, plan to restart once stable from resp standpoint
   .
   # Diffuse abdominal tenderness: Per pt this is her baseline. C/w recent
   discharge summary. Will check LFTs and lipase as previously elevated.
   Lactate elevation attribuatlbe to work of breathing, but will monitor
   abdominal exam closely.
   # Ostomy care:
   -Cleanse stoma/peristomal skin with warm water, pat dry.
   -Apply no-sting barrier wipe.
   -Placed [**Location (un) 7477**] 1 piece convexity pouching system, with [**Last Name (un) **]
   cohesive seal, and connected to bedside drainage
   ICU Care
   Nutrition: PO as tol. Heart healthy
   Glycemic Control:  SSI
   Lines:
   20 Gauge - [**2176-7-31**] 09:15 PM
   Prophylaxis:
                  Bowel reg.
   DVT: SC heparin
   Stress ulcer: Omeprazole
   VAP:  n/a
   Communication:  with Patient:
   Code status: Full code
   Disposition:  MICU

2176-08-01 10:44:00 Physician Attending Progress Note
Chief Complaint: acute resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2176-7-31**] 08:30 AM
 SPUTUM CULTURE - At [**2176-7-31**] 09:41 PM
   Still on continuous nebs
   Allergies:
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Unknown;
   Quinolones
   Unknown;
   Ceftriaxone
   Unknown;
   Flagyl (Oral) (Metronidazole)
   Unknown;
   Keppra (Oral) (Levetiracetam)
   Unknown;
   Last dose of Antibiotics:
   Clindamycin - [**2176-7-31**] 10:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2176-8-1**] 04:45 AM
   Morphine Sulfate - [**2176-8-1**] 05:13 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-8-1**] 10:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.9
C (96.7
   HR: 76 (76 - 117) bpm
   BP: 95/51(62) {90/40(58) - 116/72(82)} mmHg
   RR: 16 (15 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    717 mL
                                                                    546 mL
   PO:
                                                                    400 mL
                                                                    440 mL
   TF:
   IVF:
                                                                    317 mL
                                                                    106 mL
   Blood products:
   Total out:
                                                                    768 mL
                                                                    435 mL
   Urine:
                                                                    768 mL
                                                                    435 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -51 mL
                                                                    111 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Other
   SpO2: 99%
   ABG: 7.30/43/91/19/-4
   Physical Examination
   Gen: sitting up in bed, coughing at times
   HEENT: o/p dry
   CV: tachy RR
   Chest: diffuse ext wheeze but more air movement since yesterday
   ABd: urostomy
   Ext: pedal edema
   Neuro: conversant in short sentences seems appropriate
   Labs / Radiology
   10.1 g/dL
   181 K/uL
   166 mg/dL
   0.8 mg/dL
   19 mEq/L
   4.9 mEq/L
   11 mg/dL
   110 mEq/L
   137 mEq/L
   30.5 %
   7.2 K/uL
        [image002.jpg]
                             [**2176-7-31**]  12:56 AM
                             [**2176-7-31**]  03:14 AM
                             [**2176-7-31**]  04:17 AM
                             [**2176-7-31**]  07:17 AM
                             [**2176-7-31**]  03:30 PM
                             [**2176-7-31**]  05:30 PM
                             [**2176-7-31**]  09:56 PM
                             [**2176-8-1**]  04:52 AM
   WBC
   14.6
   7.2
   Hct
   35.3
   33.9
   30.5
   Plt
   208
   181
   Cr
   0.9
   0.8
   TropT
   0.02
   <0.01
   TCO2
   18
   18
   16
   22
   22
   Glucose
   143
   152
   152
   141
   166
   Other labs: CK / CKMB / Troponin-T:90/4/<0.01, ALT / AST:44/25, Alk
   Phos / T Bili:205/0.3, Amylase / Lipase:/43, Lactic Acid:2.1 mmol/L,
   Albumin:3.9 g/dL, LDH:261 IU/L, Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:3.4
   mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ASTHMA
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   1. Severe asthma exacerbation with hypoxemia, hypercarbia and lactic
   acidosis
 she is starting to break but still requires continuous nebs,
   steroids, Azithro, low dose of morphine for comfort has given some
   improvement, will try to wean dose of continuous albuterol
 then space
   to q1 hr nebs
   2. SZ: restart home phenytoin  check level
   3. Psych: home meds
   Remaining issues as per Housestaff
   ICU Care
   Nutrition: pos as able
   Glycemic Control:
   Lines:
   20 Gauge - [**2176-7-31**] 09:15 PM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: po diet
   Communication:  trying to reach her son, appreciate help from social
   work., left message with PCP and [**Name9 (PRE) **]
   [**Name9 (PRE) 156**] status: Full code
 though she at times said not intubation but
   her capacity is in ?
   Disposition :ICU
   Total time spent:
   ------ Protected Section ------
   Critical care with persistent status asthmaticus
   Time 35 min
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 202**], MD
   on:[**2176-8-1**] 13:36 ------